US04962224
Step (1) Preparation of N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]-N-methylglycine, Methyl Ester
Lawesson's reagent (1.9 g, 0.6 eq) was added to a stirred suspension of N-[[2-chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-methylglycine, methyl ester (3.00 g, 7.70 mmole) in toluene (30 mL) at room temperature under nitrogen. The reaction was heated to reflux for 42 hours with more Lawesson's reagent (3.9 g, 1.2 eq) added in three equal portions after 11/4, 171/2 and 231/2 hours. The reaction mixture was cooled to room temperature, filtered, and the filtrate absorbed onto silica gel and flash chromatographed (gradient elution:eluant 60/40, chloroform/petroleum ether →9/1 chloroform/acetonitrile) to provide the desired product as a foamy solid (0.98 g) and recovered starting material (1.23 g). The starting material (1.23 g, 3.08 mmole) was suspended in toluene (~15 mL) and treated with Lawesson's reagent as described above to give additional product (0.351 g, combined yield 43%), m.p. 67°-73° C. (softens at 50° C.).

reactant | Lawesson's reagent | 1.9 g, 0.6 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | N-[[2-chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-methylglycine, methyl ester | 7.70 mmole, 3.00 g | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)OC)C | C17H15ClF3NO4
reactant | Lawesson's reagent | 3.9 g, 1.2 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]-N-methylglycine, Methyl Ester | 0.98 g, yield 43% | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(N(CC(=O)OC)C)=S | C17H15ClF3NO3S
